US08378092B2
30.1) 1-(3-Bromo-2,4-difluoro-phenyl)-pyrrolidin-2-one (Intermediate 93)
1,3-dibromo-2,4-difluoro-benzene (5 g, 18.5 mmol) and pyrrolidin-2-one (1.56 g, 18.5 mmol) in dioxane (160 ml) were stirred under argon. Cs2CO3 (7.19 g, 22 mmol), xantphos (1.27 g, 2 mmol) and Pd2(dba)3 (0.675 g, 0.5 mmol) were added and the reaction was heated to 85° C. for 16 h. The reaction was quenched by the addition of 150 ml of H2O. After extraction with ethyl acetate (three times), the combined organic layers were washed with water, dried with Na2SO4, evaporated to dryness and the product was purified by silica gel chromatography (ethyl acetate/cyclohexane 0 to 20% ethyl acetate). Yield: 1 g, 20

reactant | 1,3-dibromo-2,4-difluoro-benzene | 18.5 mmol, 5 g | BrC1=C(C(=C(C=C1)F)Br)F | C6H2Br2F2
reactant | pyrrolidin-2-one | 18.5 mmol, 1.56 g | N1C(CCC1)=O | C4H7NO
reactant | Cs2CO3 | 22 mmol, 7.19 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | xantphos | 2 mmol, 1.27 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 160 ml | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.5 mmol, 0.675 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-(3-Bromo-2,4-difluoro-phenyl)-pyrrolidin-2-one | BrC=1C(=C(C=CC1F)N1C(CCC1)=O)F | C10H8BrF2NO
